US04192893
(1) 5-Methoxy-4'-nitrovalerophenone O-(2-aminoethyl)oxime hydrochloride
5.35 Mmol (1.27 g) of 5-methoxy-4'-nitrovalerophenone (melting point 64.5°-65.5° C.), 5.35 mmol (0.80 g) of 2-aminoxyethylamine dihydrochloride and 0.34 ml of pyridine were refluxed for 2 hours in 5 ml of absolute ethanol. After evaporating the reaction mixture to dryness in vacuo, 25 ml of water and 10 ml of 2 N sodium hydroxide solution were added and extracted with 25 and 10 ml, respectively, of methylene chloride. The extracts were dried over sodium sulphate and then evaporated to dryness in vacuo. Toluene was added another two times to the resulting base which was evaporated in vacuo. The residue was dissolved in absolute ethanol and an equimolar quantity of alcoholic hydrochloric acid was added. After the addition of diethyl ether, the title compound crystallized. Melting point 121.5°-122.5° C.

reactant | 5-methoxy-4'-nitrovalerophenone | 5.35 Mmol, 1.27 g | COCCCCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO4
reactant | 2-aminoxyethylamine dihydrochloride | 5.35 mmol, 0.80 g | Cl.Cl.O(N)CCN
reactant | pyridine | 0.34 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-Methoxy-4'-nitrovalerophenone O-(2-aminoethyl)oxime hydrochloride | Cl.NCCON=C(CCCCOC)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C14H21N3O4.ClH/c1-20-10-3-2-4-14(16-21-11-9-15)12-5-7-13(8-6-12)17(18)19;/h5-8H,2-4,9-11,15H2,1H3;1H
